US06821987B2
N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(5-methyl-3-isoxazolyl)urea
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline (43 mg) was dissolved in chloroform (1.2 ml) and triethylamine (0.1 ml) to prepare a solution. A solution of triphosgene (20 mg) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 5 min. Next, 3-amino-5-methylisoxazole (15 mg) was added thereto, and the mixture was further stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was subjected to separatory extraction with chloroform. The organic layer was concentrated, and the residue was then purified by chromatography (chloroform:acetone=2:1) to give the title compound (19.0 mg, yield 32%).

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline | 43 mg | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 20 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-amino-5-methylisoxazole | 15 mg | NC1=NOC(=C1)C | C4H6N2O
solvent | chloroform | 1.2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(5-methyl-3-isoxazolyl)urea | 19.0 mg, yield 32% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(=O)NC1=NOC(=C1)C | C21H18ClN5O5
